US08222248B2
To a solution of 3,4-diaminobenzoic acid methyl ester (5.2 g) and 2,6-dimethylbenzaldehyde (4.2 g) in DMSO (50 mL) was added Yb(OTf)3 (3.9 g). The mixture was stirred at room temperature for 18 h. The mixture was partioned between water and EtOAc and the aqueous layer was extracted with EtOAc. The combined organic layers were dried, filtered and concentrated to give 2-(2,6-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester as a red solid; MS (ESI)m/z 281 (M+H).

reactant | 3,4-diaminobenzoic acid methyl ester | 5.2 g | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
reactant | 2,6-dimethylbenzaldehyde | 4.2 g | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | Yb(OTf)3 | 3.9 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | water | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2,6-dimethylphenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2C)C)C=C1 | C17H16N2O2
